US04242519
To 456 mg of methyl α-methylthio-α-[m-(2-phenyl-1,3-dioxa-2-cyclopentyl)phenyl]propionate were added 2.00 g of potassium hydroxide and 10 ml of water. The mixture was heated under reflux with stirring. A mixture of 100 mg of zinc powder and 10 mg of copper sulfate pentahydrate was added three times at 30 minutes' intervals, and the mixture was further heated under reflux for 24 hours with stirring. After cooling, 20 ml of water was added. The insoluble matter was separated by filtration, and washed with 20 ml of water. The filtrate and the washing were combined, and extracted with 10 ml of diethyl ether. The organic layer was adjusted to pH 1 with 3.5 ml of conc. hydrochloric acid, and extracted four times with 20 ml of diethyl ether. The organic layer was washed with 10 ml of water, and concentrated under reduced pressure to afford α-[m-(2-phenyl-1,3-dioxa-2-cyclopentyl)phenyl]propionic acid as colorless crystals.

reactant | methyl α-methylthio-α-[m-(2-phenyl-1,3-dioxa-2-cyclopentyl)phenyl]propionate | 456 mg | CSC(C(=O)OC)(C)C1=CC(=CC=C1)C1(OCCO1)C1=CC=CC=C1 | C20H22O4S
reactant | potassium hydroxide | 2.00 g | [OH-].[K+]
catalyst | zinc | 100 mg | [Zn] | Zn
catalyst | copper sulfate pentahydrate | 10 mg | O.O.O.O.O.S(=O)(=O)([O-])[O-].[Cu+2]
solvent | water | 20 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | α-[m-(2-phenyl-1,3-dioxa-2-cyclopentyl)phenyl]propionic acid | C1(=CC=CC=C1)C1(OCCO1)C=1C=C(C=CC1)C(C(=O)O)C | C18H18O4
